US07015328B2
3-Cyano-4-(3-methoxy-phenyl)-7-methoxy-2-oxo-2H-chromene
The title compound was prepared from 3-methoxyphenol and 3-(3-methoxyphenyl)-2-cyano-acrylic acid ethyl ester by a procedure similar to that described for Example 16 in 0.2% yield. 1H NMR (CDCl3): 7.50 (t, J=8.1 Hz, 1H), 7.32 (d, J=8.7 Hz, 1H), 7.12 (dd, J=8.4, 2.4 Hz, 1H), 7.03-6.96 (m, 2H), 6.90-6.83 (m, 2H), 3.93 (s, 3H), 3.87 (s, 3H).

reactant | 3-methoxyphenol | COC=1C=C(C=CC1)O | C7H8O2
reactant | 3-(3-methoxyphenyl)-2-cyano-acrylic acid ethyl ester | C(C)OC(C(=CC1=CC(=CC=C1)OC)C#N)=O | C13H13NO3
product | 3-Cyano-4-(3-methoxy-phenyl)-7-methoxy-2-oxo-2H-chromene | 0.2% yield | C(#N)C=1C(OC2=CC(=CC=C2C1C1=CC(=CC=C1)OC)OC)=O | C18H13NO4
